US05516788
cis-4b,5,9b,10-Tetrahydro-4b,9b-dimethyl-8-isopropylindeno[1,2-b]indole.
To a solution of methyllithium (1.4M in ether, 14.5 cm3, 12.4 mmol) in dry tetrahydrofuran (20 cm3), at -78° C., under nitrogen, in a flame dried flask, was added dropwise, over 1 hour, a solution of 9b,10-dihydro-9b-methyl-8-isopropylindeno-[1,2-b]indole (1.62 g, 6.20 mmol) in dry tetrahydrofuran (30 cm3). After addition, the mixture was stirred for a further 1/2 hour at -78° C. Saturated ammonium chloride solution (2 cm3) was then added and the mixture allowed to warm to room temperature. The reaction mixture was then portioned between diethyl ether (50 cm3) and saturated ammonium chloride solution (25 cm3), and the layers separated. The aqueous phase was extracted with diethyl ether (2×10 cm3) and the combined organic extracts were washed brine, dried (Na2SO4) and evaporated. The crude material thus obtained was purified by flash chromatography on silica gel eluting with 3-10% ethyl acetate/60°-80° petrol to yield a pale yellow gum. Yield: 0.77 g, 45%. 1H NMR (CDCl3) δ: 7.1-7.3 (4H, m), 6.98 (1H, d, J=1.8 Hz ), 6.82 (1H, dd, J=1.8 Hz and 7.9 Hz ), 6.47 (1H, d, J=7.9 Hz), 3.36 (1H, d, J=15.9 Hz), 3.06 (1H, d, J=15.9 Hz), 2.78 (1H, sept., J=6.8 Hz), 1.45 (3H, s), 1.34 (3H, s), 1.18 (6H, dd, J=1.3 Hz and 6.9 Hz).

reactant | methyllithium | 12.4 mmol, 1.4M, 14.5 cm3 | C[Li]
reactant | 9b,10-dihydro-9b-methyl-8-isopropylindeno-[1,2-b]indole | 6.20 mmol, 1.62 g | CC12C(=NC=3C=CC(=CC13)C(C)C)C1=CC=CC=C1C2 | C19H19N
reactant | ammonium chloride | 2 cm3 | [Cl-].[NH4+]
reactant | diethyl ether | 50 cm3 | C(C)OCC | C4H10O
reactant | ammonium chloride | 25 cm3 | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 cm3 | O1CCCC1 | C4H8O
product | cis-4b,5,9b,10-Tetrahydro-4b,9b-dimethyl-8-isopropylindeno[1,2-b]indole | C[C@]12NC=3C=CC(=CC3[C@]1(CC1=CC=CC=C12)C)C(C)C | C20H23N
